Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/RA on Enbrel presenting w/worsening polyarthritis despite 
steroid taper. 

Patient states that he was diagnosed w/RA in ___. He has been 
on a variety of different medications (see most recent 
rheumatology note), but found success w/Enbrel. Unfortunately, 
he went off Enbrel for 3 weeks in early ___ for an ear 
infection, and the theory is that he developed antibodies 
against the medication. The patient went to ___ clinic 
on ___ for right wrist pain and swelling classic for his RA. 
He was started on a prednisone taper. He took 30mg w/initial 
relief, but even before tapering, developed worsening pain and 
swelling. Now, patient endorses pain and swelling in left hand 
and wrist (which he has not had before), as well as bilateral 
shoulder, wrist, knee, heel pain. Pains have been ongoing since 
___. He took Percocet two nights ago with some relief. 2 
percocets this AM did not help. Pain is worse with movement. No 
F/C.

#In the ED, initial vital signs were: 
10:33 97 87 140/78 14 98% RA   
 - Exam notable for:  
 - Labs were notable for no murmur, swelling in bilateral wrists 
right>left, swollen fingers   bilaterally. Pain w/AROM and PROM 
in arms and legs. Strength/sensation, pulses normal.

 - Studies performed include...  
CBC: WC 11.7 Hb 14 Plt 210 
BMP: wnl
Lactate:2.0 
LFTs: ALT 53, AST 38, AP 64, Tbili 0.3, Alb 3.9
CRP 21.6
UA unremarkable

 - Patient was given...  
   11:58    MethylPREDNISolone Sodium Succ 80 mg IV ONCE 
Duration: 1  Dose Start: Today - ___, First Dose: STAT  
   11:57    Ondansetron 4 mg IV ONCE  
   11:57    Morphine Sulfate 5 mg IV ONCE  

CXR: 
Focal opacity in the left posterior costophrenic sulcus as 
described above.  Comparison to remote studies would be advised. 
 In their absence, followup radiograph in ___ months would be 
prudent.  Clinical correlation is also recommended. 

#Rheum consulted: 30mg of prednisone should have extinguished an 
RA flare. Rheum concerned about other etiologies including 
endocarditis, given patient's immunosuppression. Wanted to r/o 
infection, check LFTs to ensure no liver disease. Would try 80 
solumedrol IV, then could up steroids to 20mg BID orally 
starting tonight.

#Upon arrival to the floor, VS 14:28 97.9 72 112/71 14 96% RA 
He says in the past three days he has had debilitiating pain in 
bl wrists (R>L), MCP joints, knees (back of R knee) and ankles 
w/ noticeable swelling.  Has been on pred taper, now on day ___ 
of 20 mg daily.  Plans for starting humira as outpatient.  Also 
had had muscular pain along shoulders which is new, dull in 
quality, worse w/ activity. 
 
Past Medical History:
hypothyroidism
hypercholesterolemia
seropositive RA
restless leg
longstanding thrombocytopenia

 
Social History:
___
Family History:
no autoimmune disease
GM and M with likely nodal OA
 
Physical Exam:
ADMISSION
Vitals- VS 97.9 72 112/71 14 96% RA 
GENERAL: alert, oriented x 3, NAD
HEAD: normocephalic, atraumatic, no alopecia
EYES: EOMI
ENT: oropharynx without ulcers or exudates, mucous membranes
moist, lips and gingival without lesions.
NECK: no masses, supple.
RESPIRATORY: CTA b/l, breath sounds symmetric, no wheezing,
rales, or ronchi.
CARDIOVASCULAR: RRR, normal S1 & S2, no murmurs.
GI: soft, non tender, non distended, normal bowel sounds.
EXTREMITIES: no cyanosis, no clubbing, no edema
PULSES: pulses 2+ radial and DP.
NEUROLOGIC: grossly intact
SKIN: warm and dry, no lesions, no rash.  
NAILS: no pitting onycholysis
MUSCULOSKELETAL: 
___ to ___ moderate MCP tenderness
R>L wrist tenderness w/o erythema or effusion 
TTP on muscles of shoulders 
no knee effusions
pain on ankles and knees ___ 

DISCHARGE
 Vitals:  97.4  119/70   68  18  99% on RA 
 General:  NAD A&Ox3
 HEENT:  no LAD or JVP 
 Lungs:  CTA ___
 CV:  RRR nl S1 S2
 Abdomen:  soft nt nd +BS
 Ext: -B/L feet, ankles, knees without evidence of synovitis or 
swelling.  
 - R. wrist with minimal swelling no warmth. Decreased passive 
flexion of the wrist. No synovitis of the R. MCPs, PIPs. Able to 
make a full fist w/ his hand  
- L. wrist no synovitis. Full ROM without pain. No synovitis of 
the L. MCPs, PIPs.  
 Neuro:  grossly intact
 
Pertinent Results:
ADMISSION LABS

___ 12:12PM BLOOD WBC-11.7* RBC-4.46* Hgb-14.0 Hct-42.1 
MCV-94 MCH-31.4 MCHC-33.3 RDW-13.5 RDWSD-46.5* Plt ___
___ 12:12PM BLOOD Plt ___
___ 06:50AM BLOOD ___ PTT-26.4 ___
___ 12:12PM BLOOD Glucose-124* UreaN-19 Creat-0.8 Na-139 
K-4.6 Cl-101 HCO3-25 AnGap-18
___ 12:12PM BLOOD ALT-53* AST-38 CK(CPK)-25* AlkPhos-64 
TotBili-0.3
___ 06:50AM BLOOD Calcium-9.9 Phos-4.8* Mg-2.2
___ 12:12PM BLOOD CRP-21.6*
___ 12:17PM BLOOD Lactate-2.0

DISCHARGE LABS

___ 06:50AM BLOOD WBC-11.1* RBC-4.14* Hgb-13.1* Hct-39.2* 
MCV-95 MCH-31.6 MCHC-33.4 RDW-13.5 RDWSD-46.7* Plt ___
___ 06:50AM BLOOD Glucose-126* UreaN-17 Creat-0.7 Na-138 
K-4.1 Cl-101 HCO3-27 AnGap-14
___ 06:50AM BLOOD Calcium-9.9 Phos-4.8* Mg-2.2

OTHER STUDIES
CXR ___  
Focal opacity in the left posterior costophrenic sulcus as 
described above. Comparison to remote studies would be advised. 
In their absence, followup radiograph in ___ months would be 
prudent. Clinical correlation is also recommended.  

 
Brief Hospital Course:
___ w/RA on Enbrel presenting w/worsening polyarthritis despite 
steroid taper. 

#Polyarthritis in setting of known seropositive RA
-This was thought likely an RA flare given that the patient has 
not been on Enbrel for several months. He received 80 mg IV 
solumedrol in the ED w/ great improvement in symptoms. 
Rheumatology evaluated patient and advised prednisone 20 mg BID 
and 30 mg thereafter w/ close f/u with home rheumatologist.

#Muscular pain
-Possible component of fibromyalgia given trigger point 
tenderness vs. myopathy given steroids and statin use. Patient 
will f/u with Rheum re: sx.  CK not elevated.

Chronic:
#Hypothyroidism
- continued levothyroxine

#Hypercholesterolemia
- hold simvastatin pending CK 
- continued ASA

TRANSITIONAL ISSUES
- ___- prednisone 20 mg BID
- ___- prednisone 30 mg thereafter w/ close f/u with Rheum 

Code status : FULL
Contact: wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Levothyroxine Sodium 175 mcg PO DAILY 
5. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Levothyroxine Sodium 175 mcg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. PredniSONE 20 mg PO BID 
Tapered dose - DOWN 
RX *prednisone 20 mg 1 tablet(s) by mouth twice daily Disp #*1 
Tablet Refills:*0
6. PredniSONE 30 mg PO DAILY 
Tapered dose - DOWN 
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*12 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Rheumatoid arthritis
Secondary: hypothyroidism, hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
You were admitted with joint pain and a rheumatoid arthritis 
flare.  You were seen by Rheumatology who recommended a large 
dose of IV steroids.  They then recommended taking prednisone 20 
mg twice daily and start 30 mg tomorrow and follow up with your 
Rheumatologist 
It was a pleasure to care for you!
-Your ___ Team
 
Followup Instructions:
___